US04463007
6-Methyl-1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxamide
12.0 g of ethyl 6-methyl-1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate were suspended in 600 ml of absolute dimethylformamide, and 200 ml of a 7% strength methanolic NH3 solution were added. The mixture was stirred for 48 hours, after which the precipitate was filtered off under suction, washed with dimethylformamide and water, and dried. Yield: 4.8 g (42%), mp. 286°-287° C.

reactant | ethyl 6-methyl-1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate | 12.0 g | CN1C(N2C(C=3C=CC=CC13)=NC(=N2)C(=O)OCC)=O | C13H12N4O3
reactant | NH3 | N | H3N
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 6-Methyl-1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxamide | CN1C(N2C(C=3C=CC=CC13)=NC(=N2)C(=O)N)=O | C11H9N5O2
